### PR TITLE
[Merged by Bors] - feat: an infinite type has a "pathological relation"

### PR DESCRIPTION
**Pull request by vihdzp**
In the sense that `{y | ¬ r x y}` and `{x | r x y}` are both of cardinal `< #α`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 1]
```diff
@@ -340,6 +351,13 @@ protected theorem eq_of_add_eq_add_right {a b c : Cardinal} (h : a + b = c + b)
 
 end add
 
+theorem exists_pathological_rel (α : Type*) [Infinite α] :
+    ∃ r : α → α → Prop, (∀ x, #{y | ¬ r x y} < #α) ∧ (∀ y, #{x | r x y} < #α) := by
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean]:
```suggestion
    ∃ r : α → α → Prop, (∀ x, #{y // ¬ r x y} < #α) ∧ (∀ y, #{x // r x y} < #α) := by
```
is, I guess, simp-normal form.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 2]
```diff
@@ -313,6 +319,11 @@ theorem add_one_eq {a : Cardinal} (ha : ℵ₀ ≤ a) : a + 1 = a :=
 theorem mk_add_one_eq {α : Type*} [Infinite α] : #α + 1 = #α :=
   add_one_eq (aleph0_le_mk α)
 
+theorem mk_Iic_lt {α : Type*} [LinearOrder α] [WellFoundedLT α] (i : α)
+    (h : ord #α = typeLT α) (hα : ℵ₀ ≤ #α) : #(Iic i) < #α := by
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:323]: Is there an `Ici` version too for `WellFoundedGT`?

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 3]
```diff
@@ -340,6 +351,13 @@ protected theorem eq_of_add_eq_add_right {a b c : Cardinal} (h : a + b = c + b)
 
 end add
 
+theorem exists_pathological_rel (α : Type*) [Infinite α] :
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean]: Perhaps `exists_rel_card_fibers_lt`?

Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean]:
```suggestion
/-- Infinite types permit a relation where fewer elements than its cardinality
are missed along all verticals and fewer elements than its cardinality are hit
along all horizontals. -/
theorem exists_pathological_rel (α : Type*) [Infinite α] :
```
or similar

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:323]: I've added these dual versions, though I do find them a bit contrived due to the use of `typeLT αᵒᵈ`. We could alternatively write `type (α := α) (· > ·)`, but I've been trying to move away the ordinal API from unbundled relations, and that would go against it.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean]: What about `exists_rel_mk_fibers_lt`? After all, the function `#α` is simply called `Cardinal.mk`.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 4]
```diff
@@ -313,6 +319,15 @@ theorem add_one_eq {a : Cardinal} (ha : ℵ₀ ≤ a) : a + 1 = a :=
 theorem mk_add_one_eq {α : Type*} [Infinite α] : #α + 1 = #α :=
   add_one_eq (aleph0_le_mk α)
 
+theorem mk_Iic_lt {α : Type*} [LinearOrder α] [WellFoundedLT α] (i : α)
+    (h : ord #α = typeLT α) (hα : ℵ₀ ≤ #α) : #(Iic i) < #α := by
+  rw [← Iio_insert, mk_insert self_notMem_Iio]
+  exact add_one_lt_of_lt hα (mk_Iio_lt i h)
+
+theorem mk_Ici_lt {α : Type*} [LinearOrder α] [WellFoundedGT α] (i : α)
+    (h : ord #α = typeLT αᵒᵈ) (hα : ℵ₀ ≤ #α) : #(Ici i) < #α :=
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:328]: Do we not want `typeGT` here, inlined?

Comment (eric-wieser) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:328]: (that is, `type (. > .)`)

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:328]: If anything, we should define `typeGT α` as `typeLT αᵒᵈ`. I would ideally like for `Ordinal.type` to be redefined into what we currently call `typeLT`. I've written about this on Zulip: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Unbundled.20relations.20and.20ordinal.20API/near/576185905

**Comment by eric-wieser** [comment]
bors d+

> Truthfully I'm not convinced that we need to have this exists_pathological_rel theorem. 

Are you referring to the one you added, or the one in CounterExamples? Feel free to merge as is if you've convinced yourself the lemma you added is worth having, no need to worry about the one in CounterExamples too much.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:328]: I'm happy to keep this as is for now, I don't think it makes sense to block the PR on it.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 5]
```diff
@@ -340,6 +355,15 @@ protected theorem eq_of_add_eq_add_right {a b c : Cardinal} (h : a + b = c + b)
 
 end add
 
+/-- Infinite types permit a relation where fewer elements than its cardinality
+are missed along all verticals and fewer elements than its cardinality are hit
+along all horizontals. -/
+theorem exists_rel_mk_fibers_lt (α : Type*) [Infinite α] :
+    ∃ r : α → α → Prop, (∀ x, #{y // ¬ r x y} < #α) ∧ (∀ y, #{x // r x y} < #α) := by
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:362]: Was there a natural `Iff` version of this, or did you want to leave that to a future PR?

**Comment by vihdzp** [comment]
> bors d+
> 
> > Truthfully I'm not convinced that we need to have this exists_pathological_rel theorem.
> 
> Are you referring to the one you added, or the one in CounterExamples? Feel free to merge as is if you've convinced yourself the lemma you added is worth having, no need to worry about the one in CounterExamples too much.

I meant mine, but I think I've re-convinced myself that we do want it. Since ℝ already has a `<` defined on it, it'd be painful to apply the `mk_Iio_lt` theorem directly.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:362]: You mean, proving that this happens iff `α` is infinite? I'm actually not sure about that... there might be other such relations for finite, non-empty `α`, but they probably wouldn't be well-ordered. I'd rather leave that to a future PR.
